US05889025
4-[1-(Anilinocarbonyl)piperidin-4-yloxy]benzaldehyde
To an ice cooled solution of 4-(piperidin-4-yloxy)benzaldehyde (2 g) and triethylamine (1.35 ml) in tetrahydrofuran (20 ml) was added phenyl isocyanate (1.3 ml). The mixture was stirred at room temperature for 3 h. At the end of this time, the reaction mixture was diluted with EtOAc, washed with aqueous NaHCO3 solution followed by water, dried (Na2SO4) and concentrated to get 3.1 g (99%) of the title product as a gummy solid.

reactant | 4-(piperidin-4-yloxy)benzaldehyde | 2 g | N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C12H15NO2
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 1.3 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-(Anilinocarbonyl)piperidin-4-yloxy]benzaldehyde | 3.1 g, 99% | N(C1=CC=CC=C1)C(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C19H20N2O3
